US04209468
To 1.0 mole of n-butyllithium in hexane at -78° C. under an inert atmosphere is added dropwise and with efficient stirring 236 g of p-dibromobenzene in dry tetrahydrofuran (total volume 500 ml). The resulting solution is stirred at -78° C. for 1 hour, then treated dropwise at this temperature with 220.5 g of chlorodiphenylphosphine. When this addition is complete, the mixture is allowed to warm to room temperature, then solvent is removed under vacuum. The residue is triturated with two 400-ml portions of methanol, then distilled through a Vigreux column. The cut with bp 165°-170° C. (0.15 mm) is recrystallized from ethanol to give 100.5 g of p-diphenylphosphinobromobenzene, mp 78°-80° C.

reactant | n-butyllithium | 1.0 mole | C(CCC)[Li]
reactant | p-dibromobenzene | 236 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | chlorodiphenylphosphine | 220.5 g | ClP(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10ClP
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | p-diphenylphosphinobromobenzene | 100.5 g | C1(=CC=CC=C1)P(C1=CC=C(C=C1)Br)C1=CC=CC=C1 | C18H14BrP
